US07141351B2
A mixture of 144 g of 2-phenylimidazole, 103 g of methyl acrylate and 500 g of methanol was heated and stirred at 60° C. for 20 hours. The solvent was distilled off in vacuo. Purification by column chromatography gave 193 g of methyl 3-(2-phenyl-1H-imidazol-1-yl)propionate (yield 84%).

reactant | 2-phenylimidazole | 144 g | C1(=CC=CC=C1)C=1NC=CN1 | C9H8N2
reactant | methyl acrylate | 103 g | C(C=C)(=O)OC | C4H6O2
solvent | methanol | 500 g | CO | CH4O
product | methyl 3-(2-phenyl-1H-imidazol-1-yl)propionate | 193 g, yield 84% | C1(=CC=CC=C1)C=1N(C=CN1)CCC(=O)OC | C13H14N2O2
